US08076329B2
To a solution of 4-(3-chloropropoxy)benzaldehyde (30 g) in methanol (250 mL), cooled at a temperature close to 0° C., is added portionwise sodium borohydride (7.72 g). The mixture is stirred for 4 hours, hydrolysed with a saturated aqueous solution of ammonium chloride and extracted with diethyl ether. The combined extracts are dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel (eluent: dichloromethane/methanol from 100/0 to 95/5). Fractions containing the expected product are pooled and concentrated under reduced pressure to give 11.1 g of 4-(3-chloropropoxy)benzyl alcohol as a white solid used without further purification.

reactant | 4-(3-chloropropoxy)benzaldehyde | 30 g | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
reactant | sodium borohydride | 7.72 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 250 mL | CO | CH4O
product | 4-(3-chloropropoxy)benzyl alcohol | 11.1 g | ClCCCOC1=CC=C(CO)C=C1 | C10H13ClO2
